US03948913
A mixture of 10.0 grams of 4-cyano-5-ethoxymethyleneamino-1-methyl-3-(5-nitro-2-furyl)-pyrazole, and 100 milliliters of a 33 % solution of methylamine in ethanol was heated at reflux for 30 minutes and cooled. The crystalline solid precipitated was collected, washed with ether and dried. Recrystallisation from dimethylformamide gave 4-methylamino-1-methyl-3-(5-nitro-2-furyl)-1H-pyrazolo[3,4-d]pyrimidine, having melting point 280°C.

reactant | 4-cyano-5-ethoxymethyleneamino-1-methyl-3-(5-nitro-2-furyl)-pyrazole | 10.0 grams | C(#N)C=1C(=NN(C1N=COCC)C)C=1OC(=CC1)[N+](=O)[O-] | C12H11N5O4
reactant | methylamine | CN | CH5N
solvent | ethanol | C(C)O | C2H6O
product | 4-methylamino-1-methyl-3-(5-nitro-2-furyl)-1H-pyrazolo[3,4-d]pyrimidine | CNC1=C2C(=NC=N1)N(N=C2C=2OC(=CC2)[N+](=O)[O-])C | C11H10N6O3
